US07125900B2
2,4,6-trichloro-N-[4-methyl-5-(2,2,2-trichloroethyl)-1,3-thiazol-2-yl]benzenesulfonamide
The title compound was prepared according to METHOD A from 4-methyl-5-(2,2,2-trichloroethyl)-1,3-thiazol-2-ylamine (123 mg, 0.5 mmol, prepared according to Dodinov, A. A et al (1993) Chem. Heterocycl. Comp (Eng. Transl.) 29(8): 955-958) and 2,4,6-trichlorobenzenesulfonyl chloride (140 mg, 0.5 mmol). The solution was allowed to stand at room temperature overnight. The solution was directly loaded on a silica gel column for flash column chromatography, eluted with a mixed solvent of ethyl acetate and hexane (up to 40% v/v) to give a solid product. Crystallization of the product from ethyl acetate and hexane gave the title compound as a white solid (112 mg, 46% yield): mp 228-229° C.; MS m/e 487, 489, 491, 493; Anal. Calcd. (found) for C12H8Cl6N2O2S2: C 29.5 (29.7) % H 1.7 (2.1) % N 5.7 (5.8) %.

reactant | 4-methyl-5-(2,2,2-trichloroethyl)-1,3-thiazol-2-ylamine | CC=1N=C(SC1CC(Cl)(Cl)Cl)N | C6H7Cl3N2S
reactant | 2,4,6-trichlorobenzenesulfonyl chloride | 0.5 mmol, 140 mg | ClC1=C(C(=CC(=C1)Cl)Cl)S(=O)(=O)Cl | C6H2Cl4O2S
product | 2,4,6-trichloro-N-[4-methyl-5-(2,2,2-trichloroethyl)-1,3-thiazol-2-yl]benzenesulfonamide | 112 mg, 46% yield | ClC1=C(C(=CC(=C1)Cl)Cl)S(=O)(=O)NC=1SC(=C(N1)C)CC(Cl)(Cl)Cl | C12H8Cl6N2O2S2
